US08486952B2
N2-(4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine
2-Chloro-N-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (80 mg, 0.255 mmol) was added to a solution of 4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyaniline (86 mg, 0.383 mmol) in acetic acid (2 mL) and THF (2.000 mL). The reaction mixture was heated at 80° C. overnight. Partial formation of the desired product was observed. The reaction mixture was heated at 120° C. for 4 h. The crude reaction mixture was purified by preparative HPLC. The appropriate fractions were evaporated to afford N2-(4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine, TFA salt (15.5 mg, 0.025 mmol, 9.77% yield). LC-MS (M+H)+=502.0. 1H NMR (500 MHz, CDCl3) δ ppm 11.88-12.12 (1H, m), 8.63 (1H, s), 7.68-7.81 (1H, m), 7.60 (1H, s), 7.47 (1H, s), 6.92 (1H, t, J=7.2 Hz), 3.94-3.99 (1H, m), 3.52 (8H, s), 3.22-3.29 (1H, m), 2.87-3.01 (1H, m), 2.74-2.85 (1H, m), 2.22-2.38 (1H, m).

reactant | 2-Chloro-N-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.255 mmol, 80 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C(=C2)F)F)F)NC | C14H11ClF3N3
reactant | 4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyaniline | 0.383 mmol, 86 mg | ClC1=NN(C=N1)C1=C(C=C(N)C=C1)OC | C9H9ClN4O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | THF | 2.000 mL | C1CCOC1 | C4H8O
product | N2-(4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyphenyl)-N4-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | ClC1=NN(C=N1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C(=C2)F)F)F)NC)OC | C23H19ClF3N7O
